US07851463B2
4-(2,2-Difluoro-1-methyl-ethyl)-N-[4-(1-propyl-azetidin-3-yl)-phenyl]-benzenesulfonamide;
Following the same procedure as described in example 55, 4-(1-propyl-azetidin-3-yl)phenylamine (150 mg, 0.78 mmol) in CH2Cl2/pyridine 1:1 (12 ml) was treated with 4-(2,2-difluoro-1-methyl-ethyl)-benzenesulfonyl chloride (321 mg, 1.26 mmol). Purification of the crude product by flash column chromatography (CH2Cl2:methanol, 95:5) provided the title compound (40 mg, 18%) as a colourless gum.

reactant | 4-(1-propyl-azetidin-3-yl)phenylamine | 0.78 mmol, 150 mg | C(CC)N1CC(C1)C1=CC=C(C=C1)N | C12H18N2
reactant | 4-(2,2-difluoro-1-methyl-ethyl)-benzenesulfonyl chloride | 1.26 mmol, 321 mg | FC(C(C)C1=CC=C(C=C1)S(=O)(=O)Cl)F | C9H9ClF2O2S
solvent | CH2Cl2 pyridine | 12 ml | C(Cl)Cl.N1=CC=CC=C1
product | 4-(2,2-Difluoro-1-methyl-ethyl)-N-[4-(1-propyl-azetidin-3-yl)-phenyl]-benzenesulfonamide | 40 mg, 18% | FC(C(C)C1=CC=C(C=C1)S(=O)(=O)NC1=CC=C(C=C1)C1CN(C1)CCC)F | C21H26F2N2O2S
